US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(trimethylsilyl)-ethynyl]benzamide (Compound No. 66)
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-iodobenzamide (950 mg, 2 mmol) and trimethylsilylacetylene (246 mg, 2.5 mmol) were dissolved in triethylamine (2 mL) and N,N-dimethylformamide (4 mL). Tetrakis(triphenylphosphine)palladium (23 mg, 0.02 mmol) and cuprous iodide (4 mg, 0.02 mmol) were added under argon atmosphere, and the mixture was stirred at 40° C. for 2 hours. After cooling to room temperature, the reaction mixture was poured into ethyl acetate (100 mL) and 1 N citric acid (100 mL), stirred, and filtered through celite. After the ethyl acetate layer was washed with water and brine one after another, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=19:1) to give a light orange solid. This was crystallized by n-hexane to give the title compound (286 mg, 32.1%) as a white crystal.

reactant | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-iodobenzamide | 2 mmol, 950 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)I)O)=O)(F)F | C15H8F6INO2
reactant | trimethylsilylacetylene | 2.5 mmol, 246 mg | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | citric acid | 1 N, 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(trimethylsilyl)-ethynyl]benzamide | 286 mg, 32.1% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C#C[Si](C)(C)C)O)=O)(F)F | C20H17F6NO2Si
